US07449582B2
N-[3-(7-Ethylamino-1-methyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-4-methyl-phenyl]-3-trifluoromethyl-benzamide
N-[3-(7-Chloro-1-methyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-4-methyl-phenyl]-3-trifluoromethyl-benzamide (50 mg, 0.106 mmol) is mixed with ethylamine (0.14 mL 70% in water, 2.2 mmol) in a sealed tube. 1 mL of n-butanol is added and the reaction is stirred at 100° C. for 16 hours. After cooling and removal of solvent under vacuum, the crude product is dissolved in DMSO and purified by reverse phase preparative HPLC to give the final product as white solid: 1H NMR 400 MHz (DMSO-d6) δ 10.47 (s, 1H), 8.48 (s, 1H), 8.29 (s, 1H), 8.25 (d, 1H, J=8.0 Hz), 7.96 (d, 1H, J=7.8 Hz), 7.78 (m, 2H), 7.66 (m, 2H), 7.26 (d, 1H, J=9.0 Hz), 6.46 (s, 1H), 3.57 (s, 3H), 3.39 (q, 2H, J=7.1 Hz), 2.13 (s, 3H), 1.22 (t, 3H, J=7.1 Hz); MS m/z 481.2 (M+1).

reactant | N-[3-(7-Chloro-1-methyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-4-methyl-phenyl]-3-trifluoromethyl-benzamide | 0.106 mmol, 50 mg | ClC1=NC=C2C=C(C(N(C2=C1)C)=O)C=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C24H17ClF3N3O2
reactant | ethylamine | 2.2 mmol, 0.14 mL | C(C)N | C2H7N
solvent | n-butanol | 1 mL | C(CCC)O | C4H10O
product | N-[3-(7-Ethylamino-1-methyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-4-methyl-phenyl]-3-trifluoromethyl-benzamide | C(C)NC1=NC=C2C=C(C(N(C2=C1)C)=O)C=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C26H23F3N4O2
